US06812227B2
To a solution of 0.331 g (0.777 mmol) of methyl 2,2-dimethyl-4-[(4-{[4-(methylamino)-2-butynyl]oxy}phenyl)sulfonyl]-3-thiomorpholinecarboxylate in 5 mL of THF was added 9 mg of 4-dimethylaminopyridine followed by 0.186 g (0.855 mmol) of di-tert-butyl dicarbonate. The reaction was stirred for 4 h and then concentrated in vacuo. The residue chromatographed on silica gel eluting first with ethyl acetate/hexanes (1:10) to (1:3) to give 0.344 g of methyl 4-{[4-({4-[(tert-butoxycarbonyl)(methyl)amino]-2-butynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholinecarboxylate as a pale yellow oil. Electrospray Mass Spec 527.6 (M+H)+

reactant | methyl 2,2-dimethyl-4-[(4-{[4-(methylamino)-2-butynyl]oxy}phenyl)sulfonyl]-3-thiomorpholinecarboxylate | 0.777 mmol, 0.331 g | CC1(C(N(CCS1)S(=O)(=O)C1=CC=C(C=C1)OCC#CCNC)C(=O)OC)C | C19H26N2O5S2
reactant | di-tert-butyl dicarbonate | 0.855 mmol, 0.186 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 9 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 4-{[4-({4-[(tert-butoxycarbonyl)(methyl)amino]-2-butynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholinecarboxylate | 0.344 g | C(C)(C)(C)OC(=O)N(CC#CCOC1=CC=C(C=C1)S(=O)(=O)N1C(C(SCC1)(C)C)C(=O)OC)C | C24H34N2O7S2
